* C:\Users\newtonis\InformesTC\TP2\graficos\ejercicio4\spice\integrador.asc
V1 0 N002 150000
V2 N001 0 150000
V3 INPUT 0 SINE(0 1 1K) AC 1
XU1 0 Vd N001 N002 OUTPUT LM833#0
C1 OUTPUT Vd 56nF
R1666 Vd INPUT 1k8
.inc C:\Users\newtonis\InformesTC\TP2\graficos\ejercicio4\spice\LM833.lib
.ac dec 100 10 1000000
.backanno
.end
